* ============================================================================
* Fuzz Core - Single Transistor Clipper
* PedalKernel Validation Circuit
* ============================================================================
* Common emitter amplifier driven into saturation
* High-gain NPN (2N5088 hFE ~400-800) with emitter bypass
* Clips via transistor saturation (asymmetric)
* ============================================================================

* Supply voltage (9V typical for pedals)
Vcc vcc 0 DC 9

* Input coupling
C1 v_in v_base 100n

* Collector-base feedback bias resistor
R1 v_coll v_base 470k

* Collector load
R2 vcc v_coll 10k

* 2N5088 NPN transistor
Q1 v_coll v_base v_emit Q2N5088
.model Q2N5088 NPN(Is=14.34f Xti=3 Eg=1.11 Vaf=74.03 Bf=400
+                  Ne=1.307 Ise=14.34f Ikf=.2847 Xtb=1.5 Br=6.092
+                  Nc=2 Isc=0 Ikr=0 Rc=1 Cjc=7.306p Mjc=.3416
+                  Vjc=.75 Fc=.5 Cje=22.01p Mje=.377 Vje=.75
+                  Tr=46.91n Tf=411.1p Itf=.6 Vtf=1.7 Xtf=3)

* Emitter resistor and bypass
R3 v_emit 0 1k
C2 v_emit 0 47u

* Output coupling and load
C3 v_coll v_out 100n
Rload v_out 0 10k

